US07517532B2
To a stirred solution of 1-(3-cyanobenzyl)-4-Boc-2-piperazinone (2.5 g, 7.9 mmol) in CH2Cl2 (20 mL) at 0° C. was added TFA (10 mL). The mixture was stirred at 0° C. for 2 h, then the solvents were removed in vacuo. The crude 1-(3-cyanobenzyl)-2-piperazinone TFA salt was partitioned between EtOAc (30 mL) and saturated aqueous sodium bicarbonate solution (30 mL). To the stirred two-phase mixture was added acetic anhydride (1.5 mL, 15 mmol) dropwise over a period of 5 min. The mixture was stirred at ambient temperature for 16 h. The EtOAc layer was separated, dried (MgSO4), filtered, and the solvent was removed in vacuo. The residue was purified on a silica gel column using a gradient mobile phase of 2%, 3%, 4% MeOH in CH2Cl2. 1-(3-cyanobenzyl)-4-acetyl-2-piperazinone was obtained as a solid.

reactant | 1-(3-cyanobenzyl)-4-Boc-2-piperazinone | 7.9 mmol, 2.5 g | C(#N)C=1C=C(CN2C(CN(CC2)C(=O)OC(C)(C)C)=O)C=CC1 | C17H21N3O3
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetic anhydride | 15 mmol, 1.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-cyanobenzyl)-4-acetyl-2-piperazinone | C(#N)C=1C=C(CN2C(CN(CC2)C(C)=O)=O)C=CC1 | C14H15N3O2
